US09169254B2
n-BuLi (5.0 ml, 8.0 mmol, 1.6 M in hexane) was added dropwise to a solution of n-Bu2Mg (8.0 ml, 8.0 mmol, 1.0 M in heptane) at room temperature for 10 minutes. The mixture was stirred at room temperature for 15 minutes and then cooled to −10±2° C. A solution of 2,5-dibromo-4-fluorotoluene (5.466 g, 19.59 mmol) in toluene (30 ml)-THF (6 ml) was added dropwise to this mixed reaction solution over 30 minutes, and the mixture was then stirred at 0° C. for one hour. The reaction mixture was added dropwise to a solution cooled to −10° C. of DMF (2.1 ml, 27 mmol) in toluene (7.6 ml) over 15 minutes. Further, this mixture was stirred at −10 to −5° C. for 30 minutes, and then quenched with an aqueous citric acid solution (2.3 M, 16 ml, 37 mmol) and extracted with Et2O. The organic layer was washed with water, and then dried over MgSO4 and concentrated under reduced pressure to give 4-bromo-2-fluoro-5-methyl-benzaldehyde (3.74 g, 88%).

reactant | n-BuLi | 8.0 mmol, 1.6 M, 5.0 ml | [Li]CCCC
reactant | 2,5-dibromo-4-fluorotoluene | 19.59 mmol, 5.466 g | BrC1=C(C=C(C(=C1)F)Br)C | C7H5Br2F
reactant | DMF | 27 mmol, 2.1 ml | CN(C)C=O | C3H7NO
reactant | citric acid | 37 mmol, 2.3 M, 16 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | heptane | CCCCCCC | C7H16
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7.6 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 4-bromo-2-fluoro-5-methyl-benzaldehyde | 3.74 g, 88% | BrC1=CC(=C(C=O)C=C1C)F | C8H6BrFO
